US05155212
4 amino-1 (1-phenylcyclohexyl)piperidine
1-(1 phenylcyclohexyl)-4 piperidone (0.245 q) and ammonium acetate (I q) were dissolved in 3.5 mL dry methanol. After stirring at room temperature for 10 minutes, sodium cyanoborohydride (0.1 q) was added and the reaction was stoppered. After 20 hours, 0.1 mL of concentrated hydrochloric acid was added followed by 10 mL water and the mixture was stirred for 1.5 hours. The solution was basified with potassium carbonate to pH 9 and extracted with methylene chloride. The methylene chloride was dried over Na2SO4 and removed in vacuo. The product distilled as a colorless, clear oil at 90°-130° C. in vacuo (about 5 mmHg).

reactant | 1-(1 phenylcyclohexyl)-4 piperidone | C1(=CC=CC=C1)C1(CCCCC1)N1CCC(CC1)=O | C17H23NO
reactant | ammonium acetate | C(C)(=O)[O-].[NH4+]
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
reactant | hydrochloric acid | 0.1 mL | Cl | ClH
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 3.5 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
product | amino-1 (1-phenylcyclohexyl)piperidine | NC1N(CCCC1)C1(CCCCC1)C1=CC=CC=C1 | C17H26N2
